* SSS #002 tone/Deep branch — public-layout revision, isolated AC comparison.
* Run with: ngspice -b tests/fixtures/circuit/daybreaker_sss002_tone_deep_layout.cir
*
* This retains the ASC's executable wire topology and U34/U35 switch defaults,
* but substitutes only the conflicting R63..R67 values recorded in the public
* layout. It is a distinct revision candidate, never a mixed circuit.

VAC source 0 AC 1
RSOURCE source plate 100k

* U2/U3 pot_pow, U33 linear, all at their explicit .5 defaults.
C1 plate treble_top 360p
R3 plate tone_source 100k
C3 tone_source bass_top 100n
C34 tone_source mid_wiper 47n
RMID mid_wiper 0 50k
RU2_TOP treble_top treble_wiper 225k
RU2_BOTTOM treble_wiper treble_return 25k
RU3_TOP bass_top bass_wiper 225k
RU3_BOTTOM bass_wiper bass_bottom 25k
R7 bass_bottom 0 1.8k

* U34 at GUITARMIC=1: 1a->2a and 1b->2b.
RSW_U34_A treble_return c35_input 1m
RSW_U34_B bass_wiper bass_output 1m
C35 c35_input 0 4.7n
R63 bass_output u5_input 100
RSW_U2_WIPER treble_wiper u5_input 1m

* U35 at DEEP=0: 1a->3a and 1b->3b.
R64 tone_source deep_common 1Meg
R65 volume_wiper deep_common 10k
C36 deep_common deep_return 10n
R66 deep_common deep_return 8.2k
R67 deep_return 0 3.3Meg

* U5 at VOL=.5 and its R69/U4-grid measurement boundary.
RU5_TOP u5_input volume_wiper 900k
RU5_BOTTOM volume_wiper 0 100k
R69 volume_wiper grid 68k
RGRID grid 0 1Gig

.save v(source) v(plate) v(tone_source) v(treble_wiper) v(bass_wiper) v(u5_input) v(volume_wiper) v(grid)

.control
set filetype=ascii
ac dec 36 40 18000
wrdata /tmp/greybound_daybreaker_sss002_tone_deep_layout.dat mag(v(source)) mag(v(plate)) mag(v(tone_source)) mag(v(treble_wiper)) mag(v(bass_wiper)) mag(v(u5_input)) mag(v(volume_wiper)) mag(v(grid))
quit
.endc

.end
